US04314844
4-Bromo-2-(3,5-dichlorophenyl)-5-trifluoromethylimidazole
Sodium bicarbonate is made into a paste by adding a few drops of water to 1.5 g (9.4 mol). The 2-(3,5-dichlorophenyl)-5-trifluoromethylimidazole is dissolved in 100 ml chloroform and added to the flask containing the paste. 1.5 g of bromine is added and stirred. TLC on alumina using 50:50 acetone-hexane clearly differentiates starting material from product. Additional bromine is added until starting material is no longer present (0.1 g). Water is added and the organic phase removed. The layer is washed with sodium bisulfite, brine and dried over sodium sulfate. The organic phase is stripped and the residue taken up in 1:1 ether hexane and filtered through silica gel.

reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-(3,5-dichlorophenyl)-5-trifluoromethylimidazole | ClC=1C=C(C=C(C1)Cl)C=1NC(=CN1)C(F)(F)F | C10H5Cl2F3N2
reactant | bromine | 1.5 g | BrBr | Br2
reactant | acetone hexane | CC(=O)C.CCCCCC
catalyst | water | a few drops | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | 4-Bromo-2-(3,5-dichlorophenyl)-5-trifluoromethylimidazole | BrC=1N=C(NC1C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C10H4BrCl2F3N2
